US04311696
A mixture of 80.1 g of 2-(4-nitrophenyl)-3-methylbutanoic acid, 150 ml of benzyl alcohol, 75 ml of toluene and 2 g of p-toluenesulfonic acid monohydrate was boiled under reflux, with azeotropic removal of water, for 10 hours. The toluene and excess benzyl alcohol were removed in vacuum, and the residual oil was dissolved in butyl chloride. The butyl chloride solution was washed with 6% potassium carbonate three times (acidification of the carbonate extract precipitated 5.2 g of the starting carboxylic acid), water and saturated brine. The dried (MgSO4) butyl chloride solution was evaporated to a residual oil. The oil was vacuum distilled, the bulk of it boiling at 197°-200°/0.3 Torr, providing 99 g of 2-(4-nitrophenyl)-3-methylbutanoic acid, benzyl ester as a yellow oil.

reactant | 2-(4-nitrophenyl)-3-methylbutanoic acid | 80.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C(C)C | C11H13NO4
reactant | benzyl alcohol | 150 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid monohydrate | 2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 2-(4-nitrophenyl)-3-methylbutanoic acid, benzyl ester | 99 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC1=CC=CC=C1)C(C)C | C18H19NO4
